US04563288
Preparation of N-Octylisostearamide
Isostearoyl chloride, prepared from 20 g isostearic acid, 10.1 g thionyl chloride and 0.2 ml dimethyl formamide, according to the procedure of Example 1, is added to 11 g (0.09 mole) n-octylamine and 10 g (0.10 mole) trimethylamine in 100 ml ether. The reaction mixture is treated in accordance with the procedure of Example 2, yielding 22 g of an amber oil, which exhibits infrared spectra values typical of a secondary amide.

reactant | Isostearoyl chloride | C(CCCCCCCCCCCCCCC(C)C)(=O)Cl | C18H35ClO
reactant | isostearic acid | 20 g | C(CCCCCCCCCCCCCCC(C)C)(=O)O | C18H36O2
reactant | thionyl chloride | 10.1 g | S(=O)(Cl)Cl | Cl2OS
reactant | n-octylamine | 0.09 mole, 11 g | C(CCCCCCC)N | C8H19N
reactant | trimethylamine | 0.10 mole, 10 g | CN(C)C | C3H9N
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | dimethyl formamide | 0.2 ml | CN(C=O)C | C3H7NO
product | N-Octylisostearamide | 22 g | C(CCCCCCC)NC(CCCCCCCCCCCCCCC(C)C)=O | C26H53NO
